US05700761
Preparation of cis-1,2-cyclopropanedicarboxylic acid
A stirred mixture of diethyl cis-1,2-cyclopropanedicarboxylate (53.0 g, 284.6 mmol) and sodium hydroxide (32.4 g, 809.1 mmol) in water (200 mL) was heated at reflux for 5 h. The mixture was then allowed to stir at room temperature overnight. The ethanol formed was evaporated under reduced pressure and the remaining aqueous solution was acidified with a slight excess of concentrated aqueous HCl (74.8 mL, 92.8 mmol). The mixture was evaporated to dryness under reduced pressure, and the residue was washed with hot ethyl acetate (3 times with 200 mL). The ethyl acetate layer was separated, dried (MgSO4) and evaporated to dryness under reduced pressure to give 35.5 g of the title compound of Step B as a white solid (96% yield); m.p. 122°-124° C. IR (mineral oil, cm-1), 1691.0 (C=O); 2600-3100, broad (OH).

reactant | diethyl cis-1,2-cyclopropanedicarboxylate | 284.6 mmol, 53.0 g | [C@@H]1([C@H](C1)C(=O)OCC)C(=O)OCC | C9H14O4
reactant | sodium hydroxide | 809.1 mmol, 32.4 g | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | HCl | 92.8 mmol, 74.8 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | cis-1,2-cyclopropanedicarboxylic acid | 35.5 g, 96% yield | [C@@H]1([C@H](C1)C(=O)O)C(=O)O | C5H6O4
